US08003663B2
1,1-dimethylethyl 4-{[5-(azidomethyl)-1,6-diethyl-1H-pyrazolo[3,4-b]pyridin-4-yl]amino}-1-piperidinecarboxylate (5.14 g) is treated with a 4M solution of hydrogen chloride in dioxane (50 ml). The reaction mixture is left to stand for 2 hours. The solvent is evaporated and co-evaporated with dichloromethane (2×50 ml) then diethyl ether (2×50 ml) to give 5-(azidomethyl)-1,6-diethyl-N-4-piperidinyl-1H-pyrazolo[3,4-b]pyridin-4-amine, hydrochloride salt. This product is dissolved in dichloromethane (100 ml) and the solution is treated with DIPEA (6.3 ml) and trimethylsilyl isocyanate (1.8 ml), and then is left to stand at room temperature for 18 hours. Water (50 ml) is added and the precipitated solid is collected by filtration, washed with diethyl ether and dried to give 4-{[5-(azidomethyl)-1,6-diethyl-1H-pyrazolo[3,4-b]pyridin-4-yl]amino}-1-piperidinecarboxamide.

reactant | 1,1-dimethylethyl 4-{[5-(azidomethyl)-1,6-diethyl-1H-pyrazolo[3,4-b]pyridin-4-yl]amino}-1-piperidinecarboxylate | 5.14 g | N(=[N+]=[N-])CC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCN(CC2)C(=O)OC(C)(C)C | C21H32N8O2
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 5-(azidomethyl)-1,6-diethyl-N-4-piperidinyl-1H-pyrazolo[3,4-b]pyridin-4-amine, hydrochloride salt | Cl.N(=[N+]=[N-])CC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCNCC2 | InChI=1S/C16H24N8.ClH/c1-3-14-12(9-19-23-17)15(21-11-5-7-18-8-6-11)13-10-20-24(4-2)16(13)22-14;/h10-11,18H,3-9H2,1-2H3,(H,21,22);1H
